US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(2-ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(pyridin-2-yl)-pyrrolidine
Prepare by the method of Example 68.2 using 1-(3,4,5-trimethoxy-benzoyl)-3-(pyridin-2-yl)-3-(2-oxo-ethyl)-pyrrolidine and 4-[1-(2-ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidine to give the title compound

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-(pyridin-2-yl)-3-(2-oxo-ethyl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CC=O)C2=NC=CC=C2)C=C(C1OC)OC | C21H24N2O5
reactant | 4-[1-(2-ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidine | C(C)OCCN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C17H23N3O2
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(2-ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(pyridin-2-yl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=NC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C38H47N5O6
